US06100275
(±)-3-(3,4-Dichlorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene
To a stirred solution of 3-(3,4-dichlorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol (50 g, 0.17 mol) in glacial acetic acid (160 mL) at room temperature was added concentrated hydrochloric acid (50 mL). The reaction mixture was heated at reflux. The starting material was consumed after 20 minutes and the reaction mixture was poured into approximately 1.5 L of crushed ice. The resulting aqueous solution was added concentrated NH4OH (approximately 325 mL) to pH=9-10 resulting in precipitation of a sticky solid. The mixture was decanted and the reminiscence was triturated in water (1.5 L) resulting in a crystalline crude product. The crude product was washed a last time with water (300 mL) and was dried in a fume hood yielding the title compound as an off-white solid, m.p. 44-52° C.

reactant | 3-(3,4-dichlorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol | 0.17 mol, 50 g | ClC=1C=C(C=CC1Cl)C1(CC2CCC(C1)N2C)O | C14H17Cl2NO
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | acetic acid | 160 mL | C(C)(=O)O | C2H4O2
product | (±)-3-(3,4-Dichlorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | ClC=1C=C(C=CC1Cl)C1=CC2CCC(C1)N2C | C14H15Cl2N
